US07335799B2
Under Ar atmosphere, to a solution of ethyl isobutyrate (59 g, 513 mmol) in THF (100 mL) was added LDA (256 mL, 2 M in heptanes, 512 mmol) at −78° C. The mixture was stirred for 30 min and a solution of bis-(3-bromomethylphenyl)-methanone (66.0 g, 179 mmol) in THF (100 mL) was added dropwise. The reaction mixture was allowed to stir overnight, gradually warming to room temperature. The mixture was hydrolyzed with ice (500 g) and water (800 g). The solution was extracted with MTBE (5×200 mL). The organic layers were washed with saturated NaHCO3 solution (100 mL) and saturated NaCl solution (100 mL), dried over MgSO4, and concentrated under vacuum. The residual oil (95 g) was subjected to column chromatography on silica (800 g) using hexanes/ethyl acetate (10:1) as eluent to afford 3-{3-[3-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester (49.4 g, 63%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.67 (m, 2H), 7.59 (s, 2H), 7.40-7.38 (m, 4H), 4.11 (q, 4H, J=7.2 Hz), 2.96 (s, 4H), 1.23 (s, 12H), 1.22 (t, 6H, J=7.2 Hz). 13C NMR (75 MHz, CDCl3=77.00 ppm): δ (ppm): 196.6, 176.9, 138.2, 137.4, 134.1, 131.5, 128.3, 127.9, 60.4, 45.9, 43.5, 25.0, 14.1. HRMS (LSIMS, gly): Calcd for C27H35O5 (M+H): 439.2484, found: 439.2484.

reactant | ethyl isobutyrate | 513 mmol, 59 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | LDA | 512 mmol, 2 M, 256 mL | [Li+].CC(C)[N-]C(C)C
reactant | bis-(3-bromomethylphenyl)-methanone | 179 mmol, 66.0 g | BrCC=1C=C(C=CC1)C(=O)C1=CC(=CC=C1)CBr | C15H12Br2O
reactant | water | 800 g | O | H2O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-{3-[3-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester | 49.4 g, 63% | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
